### PR TITLE
[Merged by Bors] - refactor: prefer `s ∩ .` when passing to a subset of `s`

### PR DESCRIPTION
**Pull request by kmill**
This is partial work to make `s ∩ .` be consistently used for passing to a subset of `s`. This is sort of an adjoint to `(Subtype.val : s -> _) '' .`, except for the fact that it does not produce a `Set s`.

The main API changes are to `Subtype.image_preimage_val` and `Subtype.preimage_val_eq_preimage_val_iff` in `Mathlib.Data.Set.Image`. Changes in other modules are all proof fixups.

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Passing.20to.20subsets.20of.20a.20subspace/near/420917406)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Image.lean [hunk 1]
```diff
@@ -1398,28 +1401,28 @@ theorem coe_image_univ (s : Set α) : ((↑) : s → α) '' Set.univ = s :=
...
 
 theorem preimage_coe_eq_preimage_coe_iff {s t u : Set α} :
-    ((↑) : s → α) ⁻¹' t = ((↑) : s → α) ⁻¹' u ↔ t ∩ s = u ∩ s := by
+    ((↑) : s → α) ⁻¹' t = ((↑) : s → α) ⁻¹' u ↔ s ∩ t = s ∩ u := by
   rw [← image_preimage_coe, ← image_preimage_coe, coe_injective.image_injective.eq_iff]
 #align subtype.preimage_coe_eq_preimage_coe_iff Subtype.preimage_coe_eq_preimage_coe_iff
 
 -- Porting note:
 -- @[simp] `simp` can prove this
 theorem preimage_coe_inter_self (s t : Set α) :
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Image.lean:1419]: Perhaps:
```suggestion
theorem preimage_coe_self_inter (s t : Set α) :
```
suggesting we should have both lemmas.

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 2]
```diff
@@ -1679,7 +1679,7 @@ theorem mem_subgroupOf {H K : Subgroup G} {h : K} : h ∈ H.subgroupOf K ↔ (h
 
 @[to_additive (attr := simp)]
 theorem subgroupOf_map_subtype (H K : Subgroup G) : (H.subgroupOf K).map K.subtype = H ⊓ K :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:1681]: Arguably this should flip too

File: Mathlib/Data/Set/Image.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Set/Image.lean:1419]: I think this would also remove some of the need for `Set.inter_comm` later in this PR.

File: Mathlib/GroupTheory/Subgroup/Basic.lean (hunk 2 above)
Comment (kmill) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:1682]: I added a TODO

File: Mathlib/Data/Set/Image.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Data/Set/Image.lean:1423]: This lemma only appears once so it doesn't seem to help with `Set.inter_comm`, but I changed the name and added back the original variant.

**Review by jcommelin — COMMENTED** [review]
It seems to me that this convention is introducing more `inter_comm`s than that it removes. Wouldn't it be more ergonomical to put `s` in the RHS slot?

**Comment by eric-wieser** [comment]
Can you edit the description to link to the Zulip thread, @kmill?

**Comment by kmill** [comment]
@jcommelin I only did fixups -- inserting `inter_comm` is an easy way to adapt to the change.

> Wouldn't it be more ergonomical to put `s` in the RHS slot?

Why?

**Comment by jcommelin** [comment]
The diff suggests to me that you would need to do fewer fixups.

**Comment by jcommelin** [comment]
@kmill privately explained to me that he would like "passing to a subset" to behave more like a prefix operator. Which I think is a good reason. So then this is the order it should be.

bors merge
